US07482350B2
Step 3. Preparation of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-ol
A mixture of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine (1.29 g, 3.30 mmol) and 6 N HCl is heated at 100° C. for 3 h (until starting material is consumed as determined by LC/MS analysis). The resulting mixture is adjusted to pH 6 using 10 N NaOH and extracted with EtOAc (100 mL×3). The combined extracts are washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered and evaporated at reduced pressure to obtain a yellow gum. Purification by chromatography on silica gel (50-100% EtOAc/Hexanes) provides the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ 11.4 (br, s, 1H), 6.75-7.26 (m, 6H), 5.00 (s, 2H), 2.86 (m, 1H), 2.51 (s, 3H), 2.22 (s, 6H), 2.19 (s, 3H), 1.24 (d, J=6.8 Hz, 6H); LC-MS found 377.4 (MH+), rt=2.87 min, Method 3.

reactant | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methoxy-6-methylpyrimidine | 3.30 mmol, 1.29 g | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)OC)COC1=C(C=CC(=C1)C(C)C)C)C | C25H30N2O2
reactant | HCl | 6 N | Cl | ClH
product | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-ol | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)O)COC1=C(C=CC(=C1)C(C)C)C)C | C24H28N2O2
